### ISSUE TITLE
bug: unexpected `sorry` usage

### ISSUE THREAD

**Issue by Seasawher** [leanprover-community/aesop#177]
After updating the version of Aesop, `sorry` is now used in proofs that used to pass without sorry.

Below is the code to reproduce the problem.

```lean
import Aesop

abbrev Variable := String

def State := Variable → Nat

inductive Stmt : Type where
  | skip : Stmt
  | assign : Variable → (State → Nat) → Stmt
  | seq : Stmt → Stmt → Stmt
  | ifThenElse : (State → Prop) → Stmt → Stmt → Stmt
  | whileDo : (State → Prop) → Stmt → Stmt

infix:60 ";; " => Stmt.seq

export Stmt (skip assign seq ifThenElse whileDo)

set_option quotPrecheck false in

notation s:70 "[" x:70 "↦" n:70 "]" => (fun v ↦ if v = x then n else s v)

inductive BigStep : Stmt → State → State → Prop where
  | protected skip (s : State) : BigStep skip s s
  | protected assign (x : Variable) (a : State → Nat) (s : State) : BigStep (assign x a) s (s[x ↦ a s])
  | protected seq {S T : Stmt} {s t u : State} (hS : BigStep S s t) (hT : BigStep T t u) :
    BigStep (S;; T) s u
  | protected if_true {B : State → Prop} {s t : State} (hcond : B s) (S T : Stmt) (hbody : BigStep S s t) :
    BigStep (ifThenElse B S T) s t
  | protected if_false {B : State → Prop} {s t : State} (hcond : ¬ B s) (S T : Stmt) (hbody : BigStep T s t) :
    BigStep (ifThenElse B S T) s t
  | while_true {B S s t u} (hcond : B s) (hbody : BigStep S s t) (hrest : BigStep (whileDo B S) t u) :
    BigStep (whileDo B S) s u
  | while_false {B S s} (hcond : ¬ B s) : BigStep (whileDo B S) s s

notation:55 "(" S:55 "," s:55 ")" " ==> " t:55 => BigStep S s t

add_aesop_rules safe [apply BigStep.skip]
add_aesop_rules safe [apply BigStep.assign]
add_aesop_rules safe [apply BigStep.seq]
add_aesop_rules safe [
  tactic
  (by apply BigStep.if_true (hcond := by assumption) (hbody := by assumption))
]
add_aesop_rules safe [
  tactic
  (by apply BigStep.if_false (hcond := by assumption) (hbody := by assumption))
]
add_aesop_rules safe [apply BigStep.while_false]
add_aesop_rules unsafe 50% [apply BigStep.while_true]

namespace BigStep

theorem cases_if_of_true {B S T s t} (hcond : B s) : (ifThenElse B S T, s) ==> t → (S, s) ==> t := by
  intro h
  cases h <;> try contradiction
  assumption

theorem cases_if_of_false {B S T s t} (hcond : ¬ B s) : (ifThenElse B S T, s) ==> t → (T, s) ==> t := by
  intro h
  cases h <;> try contradiction
  assumption

add_aesop_rules safe [destruct cases_if_of_true]
add_aesop_rules safe [destruct cases_if_of_false]

theorem and_excluded {P Q R : Prop} (hQ : P → Q) (hR : ¬ P → R) : (P ∧ Q ∨ ¬ P ∧ R) := by
  by_cases h : P
  · left
    exact ⟨h, hQ h⟩
  · right
    exact ⟨h, hR h⟩

add_aesop_rules unsafe 30% [apply and_excluded]

-- unexpected `sorry` usage!
theorem if_iff {B S T s t} : (ifThenElse B S T, s) ==> t ↔
    (B s ∧ (S, s) ==> t) ∨ (¬ B s ∧ (T, s) ==> t) := by
  aesop

end BigStep
```

**Comment by Seasawher** [comment]
The bad thing about this behaviour is that you don't realise that the proof is no longer passing simply by running `lake build`. I only noticed it after running `lake build --log-level=warning`.

**Comment by JLimperg** [comment]
Thanks! This is an issue with the elaboration of tactic rules, which I'll fix.

The fact that the build goes through even with warnings is expected (if perhaps unfortunate). You can use `lake --wfail` to have the build fail on warnings, and I recommend adding this to CI. However, the warnings should always be shown.
